US06939874B2
A mixture of (2-chloro-pyrimidin-4-yl)-quinolin-3-yl-amine (70 mg 0.272 mmol) and 3,5-dimethoxyaniline (42 mg, 0.274 mmol) was suspended in a sealed tube with 0.3 mL of a solution of DMSO containing Et3N-TFA (50 mg). The resulting mixture was heated at 100° C. for 3 h, cooled to RT, diluted with 0.4 mL DMSO and purified via preparative HPLC to give N4-quinolin-3-yl-N2-(3,5-dimethoxyphenyl)pyrimidine-2,4-diamine as a yellow solid. M+H—374. Calc'd for C21H19N5O2: 373.414.

reactant | (2-chloro-pyrimidin-4-yl)-quinolin-3-yl-amine | 0.272 mmol, 70 mg | ClC1=NC=CC(=N1)NC=1C=NC2=CC=CC=C2C1 | C13H9ClN4
reactant | 3,5-dimethoxyaniline | 0.274 mmol, 42 mg | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | Et3N-TFA | 50 mg | N(CC)(CC)CC.FC(F)(F)C(=O)O
solvent | DMSO | 0.4 mL | CS(=O)C | C2H6OS
product | N4-quinolin-3-yl-N2-(3,5-dimethoxyphenyl)pyrimidine-2,4-diamine | N1=CC(=CC2=CC=CC=C12)NC1=NC(=NC=C1)NC1=CC(=CC(=C1)OC)OC | C21H19N5O2
